US07125865B2
To a solution of 930 mg 3′-methylacetophenone in 5 mL anhydrous ethanol was added 2.04 g NH4HCO3, 542 mg KCN, then 2.1 mL conc. NH4OH. The mixture was stirred at 60° C. overnight. Addition of water and partial solvent removal induced crystallization. The product was vacuum filtered and washed several times with water. The resultant white solid was recrystallized from MeOH to yield 5-methyl-5-(3-methylphenyl)-imidazolidine-2,4-dione as a white solid. A solution of 351 mg of the imidazolidinedione product, 822 mg KMnO4 and 1.44 g NaOH in 20 mL H2O was heated to 95° C. for 2 hours, then allowed to cool to RT. Ethanol (5 mL) was added to decompose the remaining KMnO4, and the mixture filtered, acidified, and left to stand overnight. The fine precipitate that formed was recovered by gravity filtration to yield, after drying in vacuo, 5-methyl-5-(3-carboxyphenyl)-imidizalodine-2,4-dione as an off-white solid.

reactant | 3′-methylacetophenone | 930 mg | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | KCN | 542 mg | [C-]#N.[K+]
reactant | NH4OH | 2.1 mL | [NH4+].[OH-]
reactant | water | O | H2O
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 5-methyl-5-(3-methylphenyl)-imidazolidine-2,4-dione | CC1(C(NC(N1)=O)=O)C1=CC(=CC=C1)C | C11H12N2O2
